US08404861B2
Production of N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (Compound No. 1-155)
1,3,5-trimethylpyrazole-4-carbonyl chloride (3.93 g, 22.8 mmol), 3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (5.0 g, 15.2 mmol), and triethylamine (3.07 g, 30.4 mmol) were dissolved in tetrahydrofuran (100 ml), and the mixture was heated under reflux for 5 hr. The reaction mixture was diluted with ethyl acetate, and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crude crystals were washed with ether to give the desired compound (5.62 g).

reactant | 1,3,5-trimethylpyrazole-4-carbonyl chloride | 22.8 mmol, 3.93 g | CN1N=C(C(=C1C)C(=O)Cl)C | C7H9ClN2O
reactant | 3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 15.2 mmol, 5.0 g | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)(C(F)(F)F)OC | C14H17F6NO
reactant | triethylamine | 30.4 mmol, 3.07 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 5.62 g, yield: 80% | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)(C(F)(F)F)OC)NC(=O)C=1C(=NN(C1C)C)C | C21H25F6N3O2
